US07112638B2
Synthesis of 2-formyl-4-methyl-5-phenylthiophene
0.35 mol (32 mL) of POCl3 was added at 0° C. to a 1.0 mol (77 mL) of DMF (excess of DMF used as solvent). At the end of the addition, the mixture was allowed to warm to room temperature and stirred for 1 h. Then it was cooled again to 0° C. and treated with 3-methyl-2-phenylthiophene (60 g, 0.35 mol). The resulting reaction mixture was allowed to reach room temperature and after 12 h stirring at the same temperature was heated at 80° C. for 2 days. Then it was poured into a mixture of ice and water, added of sodium acetate and extracted with CHCl3 (3×150 mL). The organic phase was separated, washed with water until neutral pH, dried over MgSO4 and evaporated off to dryness. The residue was crystallized. Yield 60.2 g (85%).

reactant | POCl3 | 0.35 mol, 32 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 1.0 mol, 77 mL | CN(C)C=O | C3H7NO
reactant | 3-methyl-2-phenylthiophene | 0.35 mol, 60 g | CC1=C(SC=C1)C1=CC=CC=C1 | C11H10S
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
product | 2-formyl-4-methyl-5-phenylthiophene | C(=O)C=1SC(=C(C1)C)C1=CC=CC=C1 | C12H10OS
